US07160875B2
c) N-[(S)-5-Acetyl-1-ethyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2,2-dimethyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
In an analogous manner to that described in Example 20 d) and 27, the condensation of (S)-5-acetyl-3-amino-1-ethyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one and 2,2-dimethyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid yielded the title compound as a white solid; MS: m/e=493 (M+H)+.

reactant | (S)-5-acetyl-3-amino-1-ethyl-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one | C(C)(=O)N1C2=C(N(C([C@H](C1)N)=O)CC)C=CC=C2 | C13H17N3O2
reactant | 2,2-dimethyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | CC(C(=O)O)(C(=O)NCC(C(F)(F)F)(F)F)C | C8H10F5NO3
product | N-[(S)-5-Acetyl-1-ethyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-2,2-dimethyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | C(C)(=O)N1C2=C(N(C([C@H](C1)NC(C(C(=O)NCC(C(F)(F)F)(F)F)(C)C)=O)=O)CC)C=CC=C2 | C21H25F5N4O4
